US05332729
21 g of 99% sodium hydride are suspended at room temperature under argon in 1000 ml of anhydrous tetrahydrofuran, and a solution of 172.2 g of 1,1-diethoxyethylphosphinic acid ethyl ester is added dropwise over a period of 2.5 hours, the temperature being maintained at from 20° to 25°. The reaction is exothermic and involves the evolution of gas. The batch is then stirred for 1.5 hours at room temperature, 142.2 g of bromomethylcyclohexane are added and heating under reflux is effected for 24 hours. The suspension is cooled to 4° and 250 ml of water are carefully added. Two phases are formed. The tetrahydrofuran phase is separated off and the aqueous phase is extracted twice with 250 ml of dichloromethane each time. Concentration by evaporation yields a brown oil which, after distillation under reduced pressure, gives 1,1-diethoxyethyl(cyclohexylmethyl)phosphinic acid ethyl ester having a boiling point of 95° (1.8×10-4 mbar).

reactant | sodium hydride | 21 g | [H-].[Na+]
reactant | 1,1-diethoxyethylphosphinic acid ethyl ester | 172.2 g | C(C)OP(=O)C(C)(OCC)OCC | C8H19O4P
reactant | bromomethylcyclohexane | 142.2 g | BrCC1CCCCC1 | C7H13Br
reactant | water | 250 ml | O | H2O
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | 1,1-diethoxyethyl(cyclohexylmethyl)phosphinic acid ethyl ester | C(C)OP(=O)(CC1CCCCC1)C(C)(OCC)OCC | C15H31O4P
